US05310897
To a solution of (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-carboxyethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one (100 mg) and 2-mercaptopyridine (35 mg) in dry tetrahydrofuran (4 ml), there was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (100 mg) under ice-cooling, followed by stirring overnight. The reaction mixture was diluted with diethyl ether and water. The organic layer was separated from the aqueous layer, washed with brine, dried over sodium sulfate and distilled off to remove the solvent to give (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-(2-pyridylthio)carbonylethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one.

reactant | (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-carboxyethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one | 100 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1[C@@H](C)C(=O)O)CC(=O)OC(C)(C)C)=O | C20H37NO6Si
reactant | 2-mercaptopyridine | 35 mg | SC1=NC=CC=C1 | C5H5NS
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 100 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-(2-pyridylthio)carbonylethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1[C@@H](C)C(=O)SC1=NC=CC=C1)CC(=O)OC(C)(C)C)=O | C25H40N2O5SSi
